US04370487
50.0 g pyromellitic acid were boiled under reflux with 400 ml anisole and 3.0 g activated carbon, Merck Art. No. 2184, under the same conditions as in example 1 and then processed. 4.3 g (60.6% of the theory) water separated in the course of 2.5 hours. 27.3 g (=64% of the theory) pyromellitic acid anhydride were obtained and the remainder of 18.0 g, (36%) was filtered off as unchanged pyromellitic acid, together with the activated carbon.

reactant | pyromellitic acid | 50.0 g | C(C=1C(C(=O)O)=CC(C(=O)O)=C(C(=O)O)C1)(=O)O | C10H6O8
solvent | anisole | 400 ml | C1(=CC=CC=C1)OC | C7H8O
product | pyromellitic acid anhydride | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
